US07273868B2
A mixture of 4-benzylsulfinyl-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine (prepared in the above (6)) 83 mg, 3-chloro-4-methoxybenzylamine 86 mg, triethylamine 51 mg and N,N-dimethylacetoamide 3 ml is stirred at 110° C. for 1 hour. The reaction mixture is diluted with ice water and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo. The residue is separated with silica gel chromatography (solvent; ethyl acetate ethyl acetate:methanol=15:1→10:1) and crystallized from a mixture of methanol, ethyl acetate and isopropyl ether to give 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine as a colorless crystalline powder 43 mg.

reactant | 4-benzylsulfinyl-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine | C(C1=CC=CC=C1)S(=O)C1=NC(=NC(=C1C(=O)OC)N1CCC(CC1)O)N1CC=2N(CC1)C=CN2 | C24H28N6O4S
reactant | 3-chloro-4-methoxybenzylamine | 86 mg | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
reactant | triethylamine | 51 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetoamide | 3 ml | CN(C(C)=O)C | C4H9NO
product | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine | 43 mg | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CCC(CC2)O)N2CC=3N(CC2)C=CN3)C=CC1OC | C25H30ClN7O4
